US05883106
C. 4-[3-[4(2-Methylimidazol-1-yl )phenylthio]phenyl]-4-methoxyiminomethyl-3,4,5,6-tetrahydro-2H-pyran
A 30-ml two-necked flask was equipped with a stopper, a nitrogen inlet and a magnetic stirring bar. The flask was charged with sodium cyanoborohydride (13 mg, 0.2 mmol) and flushed with nitrogen (this process was repeated twice). Bis(triethylphosphine)nickel(II)chloride (41 mg, 0.1 mmol), 4-(3-iodophenyl)-4-methoxyiminomethyl-3,4,5,6-tetrahydro-2H-pyran (1.2 g, 2.6 mmol) and thiourea (286 mg, 3.8 mmol) were then added and the flask was flushed with nitrogen three times. N,N-Dimethylformamide (2 ml) was added and the resulting mixture was heated at 60° C. for 4 h. After cooling to room temperature, calcium oxide (210 mg, 3.8 mmol) and DMF (4 ml) were added. The resulting mixture was stirred at room temperature under nitrogen for 1.5 h and then a mixture of 4-(2-methylimidazol-1-yl)phenyl iodide (780 mg, 2.8 mmol), bis(triethylphosphine)nickel(II)chloride (41 mg, 0.1 mmol) and sodium cyanoborohydride (13 mg, 0.2 mmol) was added. The resulting red mixture was heated at 60° C. under nitrogen for 4 h and then cooled to room temperature. The resulting deep red mixture was partitioned between water (50 ml) and dichloromethane (50 ml) and the organic phase was separated. The aqueous phase was extracted with dichloromethane (20 ml×2). The combined extracts were washed with water (50 ml) and brine (50 ml), dried (MgSO4) and concentrated in vacuo. The residue was purified by silica gel column chromatography {LiChroprep NH2 (Merck), 50 g; eluted with ethyl acetate} to afford 388 mg (37%) of desired compound as a colorless oil.

reactant | sodium cyanoborohydride | 0.2 mmol, 13 mg | C(#N)[BH3-].[Na+]
reactant | 4-(3-iodophenyl)-4-methoxyiminomethyl-3,4,5,6-tetrahydro-2H-pyran | 2.6 mmol, 1.2 g | IC=1C=C(C=CC1)C1(CCOCC1)C=NOC | C13H16INO2
reactant | thiourea | 3.8 mmol, 286 mg | NC(=S)N | CH4N2S
reactant | calcium oxide | 3.8 mmol, 210 mg | [O-2].[Ca+2]
reactant | 4-(2-methylimidazol-1-yl)phenyl iodide | 2.8 mmol, 780 mg | CC=1N(C=CN1)C1=CC=C(C=C1)I | C10H9IN2
reactant | sodium cyanoborohydride | 0.2 mmol, 13 mg | C(#N)[BH3-].[Na+]
catalyst | Bis(triethylphosphine)nickel(II)chloride | 0.1 mmol, 41 mg | CC[PH+](CC)CC.CC[PH+](CC)CC.Cl[Ni]Cl
catalyst | bis(triethylphosphine)nickel(II)chloride | 0.1 mmol, 41 mg | CC[PH+](CC)CC.CC[PH+](CC)CC.Cl[Ni]Cl
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 4-[3-[4(2-Methylimidazol-1-yl )phenylthio]phenyl]-4-methoxyiminomethyl-3,4,5,6-tetrahydro-2H-pyran | 388 mg, 37% | CC=1N(C=CN1)C1=CC=C(C=C1)SC=1C=C(C=CC1)C1(CCOCC1)C=NOC | C23H25N3O2S
